US08222416B2
A solution of 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (3.4 g, 7.2 mmol) in ethanol (50 mL) and tetrahydrofuran (100 mL) was treated with an aqueous sodium hydroxide solution (10%, 20 mL). The reaction was stirred at 85° C. for 16 h. At this time, the reaction mixture was cooled to 25° C., concentrated in vacuo, diluted with water (100 mL) and then extracted with ethyl acetate (3×150 mL). The organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The resulting solid was washed with ethanol (15 mL), and dried to afford 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.64 g, 68.9%) as a white solid: 1H NMR (300 MHz, CDCl3) δ ppm 11.64 (s, 1H), 8.52 (d, 1H, J=2.1 Hz), 8.19 (dd, 1H, J1=4.5 Hz, J2=1.8 Hz), 7.95 (dd, 2H, J1=7.8 Hz, J2=1.2 Hz), 7.75-7.69 (m, 3H), 7.42 (t, 1H, J=8.1 Hz), 7.13-7.05 (m, 2H), 6.52 (t, 1H, J=2.1 Hz), 6.44 (d, 1H, J=1.8 Hz), 6.27 (d, 1H, J=9.9 Hz), 2.70-2.57 (m, 1H), 1.17 (s, 3H), 1.15 (s, 3H).

reactant | 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 7.2 mmol, 3.4 g | N1(N=CC=C1)C=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C27H24N4O2S
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 1.64 g, 68.9% | N1(N=CC=C1)C=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C21H20N4
